US07244730B2
(Step 4) 1-{3-(tert-Butyl)-4-methoxy-5-[(3R,4R)-3-methoxy-4-(methoxymethoxy)tetrahydro-1H-1-pyrrolyl]phenyl}-1-ethanone
Tetra-n-butylammonium bromide (227 mg, 0.704 mmol) and methyl iodide (0.18 ml, 2.9 mmol) were added to a mixed solvent of 1-{3-(tert-butyl)-5-[(3R,4R)-3-hydroxy-4-(methoxymethoxy)tetrahydro-1H-1-pyrrolyl]-4-methoxyphenyl}-1-ethanone (496 mg, 1.41 mmol) in a toluene (3 ml) −50% aqueous NaOH (3 ml) mixed solvent in that order at room temperature and the mixture was stirred for 64 hours. It was then diluted with water, extraction was performed with ethyl acetate and the extract was washed with brine. After drying with anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (397 mg, 77%) as a light yellow oil.

reactant | methyl iodide | 2.9 mmol, 0.18 ml | CI | CH3I
reactant | 1-{3-(tert-butyl)-5-[(3R,4R)-3-hydroxy-4-(methoxymethoxy)tetrahydro-1H-1-pyrrolyl]-4-methoxyphenyl}-1-ethanone | 1.41 mmol, 496 mg | C(C)(C)(C)C=1C=C(C=C(C1OC)N1C[C@H]([C@@H](C1)OCOC)O)C(C)=O | C19H29NO5
reactant | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetra-n-butylammonium bromide | 0.704 mmol, 227 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 1-{3-(tert-Butyl)-4-methoxy-5-[(3R,4R)-3-methoxy-4-(methoxymethoxy)tetrahydro-1H-1-pyrrolyl]phenyl}-1-ethanone | 397 mg, 77% | C(C)(C)(C)C=1C=C(C=C(C1OC)N1C[C@H]([C@@H](C1)OCOC)OC)C(C)=O | C20H31NO5
